US09358222B2
3-(4-Chlorophenyl)-3-(4-hydroxycyclohexyloxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (NU8360)
The named compound was synthesised from 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (400 mg, 1.01 mmol, 1 equiv.) and cis/trans-1,4-cyclohexanediol (586 mg, 5.05 mmol, 5 equiv.) using General Procedure A and obtained as a white solid (338 mg, 68%). 1H NMR (300 MHz, CDCl3): mixture of diastereoisomers: 7.93-7.90 (m, 3H, O2N—C—CH and C(O)═C═CH), 7.56-7.51 (m, 2H, Ar—H), 7.18-7.02 (m, 7H, Ar—H), 4.78 and 4.24 (d: AB, J=15.0 Hz, 2H, N—CH2); 3.70-3.62 (m, 1H, HOCH—), 3.26-3.09 (m, 1H, OCH), 1.86-1.26 (m, 10H, CH2). 13C NMR (75 MHz, CDCl3): mixture of diastereoisomers: 168.33, 147.16, 146.01, 144.80, 137.66, 134.74, 132.72, 131.58, 130.21, 130.16, 129.68, 128.31, 128.28, 128.23, 128.19, 123.81, 123.09, 94.30, 94.28, 71.41, 69.22, 68.61, 67.66, 42.65, 32.51, 32.32, 30.95, 30.65, 30.33, 29.19, 29.03. m/z (ES): 493 [M+H]+.

reactant | 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 1.01 mmol, 400 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | trans-1,4-cyclohexanediol | 5.05 mmol, 586 mg, 5 equiv. | [C@H]1(CC[C@H](CC1)O)O | C6H12O2
product | 3-(4-Chlorophenyl)-3-(4-hydroxycyclohexyloxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 338 mg, 68% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])OC1CCC(CC1)O | C27H25ClN2O5
